US05698551
In a dry 250 ml three-necked flask equipped with reflux condenser and thermometer, lithium aluminum hydride (1.8 g, 0.047 mol) was suspended in dry diethyl ether (75 ml) under a nitrogen atmosphere. Cautiously, 10,11-dihydrodibenz[b,f][1,4]oxazepin-11-one (5.0 g, 0.024 mol) was added in portions. The mixture was heated at reflux temperature for 5 hours, cooled to room temperature and left stirring overnight. The reaction mixture was quenched by cautious addition of water (1.8 ml), 4N sodium hydroxide (1.8 ml) and finally water (5.4 ml). Diethyl ether and toluene were added and the mixture was filtered. The filtercake was washed with diethyl ether, toluene and ethyl acetate, successively. The filtrate was evaporated until dryness, affording 4.55 g (96%) of 10,11-dihydrodibenz[b,f][1,4]oxazepine.

reactant | lithium aluminum hydride | 0.047 mol, 1.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 10,11-dihydrodibenz[b,f][1,4]oxazepin-11-one | 0.024 mol, 5.0 g | C1=CC=CC2=C1C(NC1=C(O2)C=CC=C1)=O | C13H9NO2
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 10,11-dihydrodibenz[b,f][1,4]oxazepine | 4.55 g, 96% | C1=CC=CC2=C1CNC1=C(O2)C=CC=C1 | C13H11NO
